Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ibuprofen
 
Attending: ___.
 
Chief Complaint:
Right coronary artery ST-elevation myocardial infarction
 
Major Surgical or Invasive Procedure:
Cardiac catheterization
 
History of Present Illness:
Patient reports she was reading a book at ___ at home today 
and had sudden onset bilateral arm pain and heaviness from the 
biceps to the lower arms and chest pain. Per telephone triage, 
she also had wheezing and was very anxious. She had never had 
chest pain like this before. She was sent to the ED and recieved 
325mg of ASA and Morphine 10mg IV prior to arrival. She received 
Oxygen, Plavix 600mg heparin bolus 4200u IV and integrillin 
bolus 12mg IV. EKG demonstrated STE in II, III, AvF as well as 
in Right sided leads V3-V6 concerning for inferior infarct and 
RCA occlusion. Paatient was taken to cath lab and underwent PTCA 
with deployment of three BMS in the proximal RCA. She tolerated 
the procedure well and was admitted to the CCU for 
post-operative care.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion  

 
Past Medical History:
ONCOLOGIC HISTORY:  Initially presented with URI-symptoms in 
___. CXR followed by CT scan showed adenopathy and 
bronchial collapse, and a large hilar mass. Transbronchial 
needle aspiration and biopsy showed SCLC.  She was treated with 
carboplatin and etoposide with radiation for a total of 4+2 
cycles.  Her most recent consolidation cycle was completed in 
___.  She underwent prophylactic cranial irradiation, 
which she completed on ___.  
.
MEDICAL HISTORY
1.  Cholecystectomy.
2.  Hypothyroidism.
3.  Osteopenia.
4.  Hypertension.
5.  Hypercholesterolemia.
6.  GERD.

1. CARDIAC RISK FACTORS: Hypertension, Hypercholesterolemia.  
2. CARDIAC HISTORY: Has been worked up previously in ___ and 
___ for anginal chest pain. ___ did not show evidence of 
ischemic changes. ___ showed angina with equivocal EKG changes. 
  
-CABG: none 
-PERCUTANEOUS CORONARY INTERVENTIONS: None prior 
-PACING/ICD: none 
3. OTHER PAST MEDICAL HISTORY:  
Hypothyroidism
GERD
Small Cell Lung Cancer
Memory Loss
Urinary incontinence
Basal Cell Carcinoma of the right cheek.
Cholecystectomy
Osteopenia
 
Social History:
___
Family History:
One brother with prostate cancer.  No other cancer
Mother with ___, arthritis, esophageal ulcers.
Father and a brother with alcoholism.
 
Physical Exam:
Exam on admission
VS: T= BP=118/62 HR=106 RR=12 O2 sat= 98 2L  
GENERAL: WDWN feamle in NAD. Oriented x2. Sedated and drowsy 
requiring redirection at times. Noteable slurred speech.  
HEENT: NCAT. Sclera anicteric. Conjunctiva were pink. Dry Mucous 
Membranes.  
NECK: Supple. Unable to assess JVP as patient was lying flat. No 
bruits.  
CARDIAC: RR, normal S1, S2. No m/r/g. No S3 or S4.  
LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: Right femoral sheath in place. Hematoma on left 
forearm.  
Neuro: CN II-XII intact. No gross motor deficits.  
SKIN: CDI  
Right: Radial 1+ DP 1+  
Left: Radial 1+ DP 1+  

Exam on discharge
Gen: alert, amb back from bathroom with walker, comfortable. 
HEENT: supple, unable to eval JVD
CV: RRR, no M/R/G
RESP: CTAB
ABD: soft, NT, pos BS
EXTR: trace peripheral edema
NEURO: oriented x3, somewhat unclear on recent events. 
Extremeties: right groin with extensive ecchymosis, no hematoma
Right: DP 1+ ___ 1+
Left: DP 1+ ___ 1+  
Skin: intact
 
Pertinent Results:
___: Catheterization
COMMENTS: 
1. Selective coronary angiography in this right dominant system 
revealed 
two vessel disease.  The LMCA was normal without significant 
stenosis. 
The LAD has no obstructive disease with 60% stenosis in the 
origin of 
the first diagonal.  The LCx was normal without obstructive 
disease. 
The RCA had a total occlusion in the proximal part of the 
vessel. 
2. Limited resting hemodynamics revealed a normal central aortic 

pressure 135/84 with a mean of 113 mmHg. 
3. Successful PTCA/Stenting of proximal/mid RCA with three 
overlapping 
VISION 3.0 X 12 mm Baremetal stents along with Export 
thrombectomey 
resulting in 0% residual stenosis and normal flow. 
  
FINAL DIAGNOSIS:     
1. Two vessel coronary artery disease. 
2. Inferior STEMI with successful placememt of three bare-metal 
stents 
in proximal and mid RCA. 

CTA Head/Neck ___:
IMPRESSION: 
  
1. CT head demonstrates no acute intracranial process; within 
the limitation of persistent contrast in the major cerebral 
arteries from recent cardiac catheterization, limiting the 
resolution of thrombus detection.  
  
2. Global dilatation of ventricles, unchanged since the earlier 
MR study of ___, in keeping with a degree of 
central cerebral volume loss.  
  
3. CTA neck demonstrates no hemodynamically significant 
stenosis, 
craniocervical dissection or luminal narrowing. 
  
4. Impression of luminal narrowing and soft tissue density at 
the upper 
cervical esophagus, near its ostium. Re-evaluation of symptoms 
is advised, 
with direct inspection with upper endoscopy, particularly if 
warranted on 
clinical grounds. 
  
4. Extensive centrilobular emphysema involving both upper lobes. 

  
MRI ___: No evidence of acute intracranial process. 
Unchanged global dilatation of ventricles in keeping with 
central volume loss since the earlier MR study of ___.

Echo results:
The left atrium is mildly dilated. Left ventricular wall 
thicknesses and cavity size are normal. There is mild regional 
left ventricular systolic dysfunction with very mild hypokinesis 
of the inferior wall. The remaining segments contract normally 
(LVEF = 55 %). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis. Mild (1+) aortic regurgitation is seen. The 
mitral valve leaflets are structurally normal. There is no 
mitral valve prolapse. Mild (1+) mitral regurgitation is seen. 
The pulmonary artery systolic pressure could not be determined. 
There is a trivial/physiologic pericardial effusion. 

IMPRESSION: Very mild focal left ventricular hypokinesis c/w 
CAD. Mild aortic regurgitation. Mild mitral regurgitation. 

Admission labs:
___ 05:00PM BLOOD cTropnT-0.13*
___ 02:19AM BLOOD CK-MB-82* MB Indx-9.7*
___ 10:11AM BLOOD CK-MB-54* MB Indx-7.0*
___ 05:00PM BLOOD WBC-6.0 RBC-3.93* Hgb-12.2 Hct-35.7* 
MCV-91 MCH-31.1 MCHC-34.2 RDW-13.3 Plt ___
___ 10:06PM BLOOD Neuts-77.3* Lymphs-16.4* Monos-5.6 
Eos-0.3 Baso-0.4
___ 05:00PM BLOOD ___ PTT-24.4 ___
___ 10:06PM BLOOD Glucose-111* UreaN-26* Creat-1.2* Na-135 
K-4.6 Cl-106 HCO3-23 AnGap-11
___ 05:00PM BLOOD Lipase-39
___ 05:00PM BLOOD cTropnT-0.13*
___ 05:00PM BLOOD Cholest-243*
___ 05:00PM BLOOD Triglyc-151* HDL-65 CHOL/HD-3.7 
LDLcalc-148*
___ 07:28PM BLOOD %HbA1c-5.8 eAG-120
___ 05:04PM BLOOD Glucose-124* Lactate-1.4 Na-140 K-4.2 
Cl-106 calHCO3-22
___ 05:04PM BLOOD freeCa-1.08*

Discharge labs:
___ 07:50AM BLOOD WBC-8.6 RBC-3.30* Hgb-10.1* Hct-30.3* 
MCV-92 MCH-30.6 MCHC-33.3 RDW-13.6 Plt ___
___ 07:50AM BLOOD Glucose-101* UreaN-19 Creat-1.0 Na-136 
K-4.1 Cl-104 HCO3-22 AnGap-14
___ 07:50AM BLOOD Calcium-8.9 Phos-2.5* Mg-2.___riefly this is a ___ YO woman with remote history of exertional 
angina presenting with sudden onset bilateral arm pain secondary 
to RCA STEMI.
.  
# Right Coronary Artery STEMI: The patient underwent cardiac 
catheterization with placement of three bare metal stents in the 
proximal and mid RCA with no complications. Her pressures were 
supported postoperativly with IV fluids. Integrillin was hung 
for 18 hours post-procedure. Her EKG and troponins returned to 
normal. She was angina-free for the duration of her 
hospitalization. Her BB was initially held secondary to risk of 
high degree heart block following RCA STEMI. She remained in 
normal sinus rhythm for the duration of her hospitalization and 
was restarted at metoprolol XL 25mg PO daily. She should 
continue aspirin and plavix for 30 days post operatively.  
.
Slurred speech: Immediatly post-procedure the patient was noted 
to have slurred speech and confusion that was a deviation from 
baseline mental status per her son. ___ was consulted. 
Imaging of the head and neck was without evidence of hemmorhage 
but preliminary reads were concerning for apossible left ICA 
thrombus. She was started on a heparin drip overnight. Further 
review of the imaging the following morning was not consistent 
with an ICA thrombus and the heparin was stopped. A follow up 
MRI was negative for any intracranial process. Her AMS was 
thought to be secondary to sedative medications received during 
the procedure and ICU delirium. She began to clear within two 
days.
.
Incidental finding on Neck CTA:  Imaging also showed an 
incidental finding of luminal narrowing and soft tissue density 
at the upper cervical esophagus, near its ostium. Follow-up 
evaluation is advised with EGD especially if clinically 
correlated. The patient was asymptomatic during her 
hospitalization. The pateint should follow up with her primary 
care physician to determine if further evaluation is needed.
  
# Hypothyroidism: She was continued on her home levothyroxine.

 
Medications on Admission:
-Benzonatate 100mg 1 by mouth daily
-Citalopram 30mg by mouth once daily
-donezapil 5mg one tablet by mouth each morning with breakfast
-Ergocalciferal 50,000 units capsule one by mouth every other 
week
-combivent 2 puffs every 6 hours as needed for wheezing/sob
-levothyroxine 88mcg tablet daily ___
-oxybutynin chloride 5mg tablet ER one by mouth daily
-trazodone 50mg tablet one tablet by mouth at bed time as needed 
for insomnia
-Imodium prn for diarrhea
-Tylenol prn for pain
-Calcium citrate + vit D BID

 
Discharge Medications:
1. oxybutynin chloride 5 mg Tablet Extended Rel 24 hr Sig: One 
(1) Tablet Extended Rel 24 hr PO once a day.  
2. benzonatate 100 mg Capsule Sig: One (1) Capsule PO DAILY PRN 
() as needed for cough.  
3. citalopram 20 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
4. donepezil 5 mg Tablet Sig: One (1) Tablet PO BREAKFAST 
(Breakfast).  
5. ergocalciferol (vitamin D2) 50,000 unit Capsule Sig: One (1) 
Capsule PO every other week: take on ___.  
6. ipratropium-albuterol ___ mcg/Actuation Aerosol Sig: ___ 
Puffs Inhalation Q6H (every 6 hours) as needed for SOB/wheezing. 
 
7. levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO 
MTUWETHFRSA ().  
8. trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) as 
needed for insomnia.  
9. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO three 
times a day as needed for pain.  
10. Calcium Citrate + D 315-200 mg-unit Tablet Sig: One (1) 
Tablet PO twice a day.  
11. aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
12. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily): Take every day for at least one month.  
13. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. metoprolol succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
15. ranitidine HCl 150 mg Capsule Sig: One (1) Capsule PO once a 
day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
ST Elevation Myocardial Infarction
Hypertension
Dyslipidemia
Chronic Memory Loss with Acute Delerium

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You had a heart attack and needed to have 3 bare metal stents 
placed in your right coronary artery. You have not had any 
further chest pain since this procedure. You will need to take 
aspirin and plavix every day for at least one month and possibly 
longer to prevent the stents from clotting off and causing 
another heart attack. Do not stop taking these medicines unless 
Dr. ___ you it is OK. 
You have some bruising in your groin from the catheterization, 
this should resolve slowly. You also had some confusion we call 
delerium from being in the hospital, this should resolve 
completely over the next few weeks. 
Medication changes:
1. Start taking aspirin and Plavix (clopidogrel) to prevent the 
stents from clotting off
2. Start taking Metoprolol to help your heart recover from the 
heart attack
3. Start taking Atorvastatin (Lipitor) to prevent more blockages 
in your heart arteries. 
4. Stop taking Nexium, take Ranitidine instead to prevent 
heartburn.  

 
Followup Instructions:
___